US04447361
6-(3-Thienyl)-11H-pyrido[2,3-b][1,4]benzodiazepine
Following the procedure of Example 20, [2-[(3-amino-2-pyridinyl)amino]phenyl](3-thienyl)methanone is heated with para toluene sulfonic acid catalyst in organic solvent while removing water in a Dean-Stark trap to give the title compound.

reactant | [2-[(3-amino-2-pyridinyl)amino]phenyl](3-thienyl)methanone | NC=1C(=NC=CC1)NC1=C(C=CC=C1)C(=O)C1=CSC=C1 | C16H13N3OS
catalyst | para toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 6-(3-Thienyl)-11H-pyrido[2,3-b][1,4]benzodiazepine | S1C=C(C=C1)C1=NC2=C(NC3=C1C=CC=C3)N=CC=C2 | C16H11N3S
